US04589905
A solution of 31.58 g of 2-(trifluoromethyl)-4-chlorophenylhydrazine and 27.92 g of ethyl(ethoxymethylene)cyanoacetate dissolved in 225 of acetic acid and 75 ml of water was heated on a steam bath for approximately 16 hours. The reaction mixture was cooled to room temperature and placed in the refrigerator. The precipitated solid was collected by filtration and combined with the solids isolated from the filtrate to provide 43 g of 5-amino-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester. MP=114°-116° C.

reactant | 2-(trifluoromethyl)-4-chlorophenylhydrazine | 31.58 g | FC(C1=C(C=CC(=C1)Cl)NN)(F)F | C7H6ClF3N2
reactant | ethyl(ethoxymethylene)cyanoacetate | 27.92 g | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 75 ml | O | H2O
product | 5-amino-1-[2-(trifluoromethyl)-4-chlorophenyl]-1H-pyrazole-4-carboxylic acid, ethyl ester | 43 g | NC1=C(C=NN1C1=C(C=C(C=C1)Cl)C(F)(F)F)C(=O)OCC | C13H11ClF3N3O2
